US03983243
26 g of 1-bromo-3,6,7-trimethyl-2,6-octadiene, 13 g of 3,4-methylenedioxy-phenol [sesamol] and 20.75 g of finely pulverized calcium carbonate were refluxed for 68 hours in 100 ml of acetone. After reflux the reaction mixture was filtered and the acetone solution was evaporated. By chromatography on Kieselgel with hexane-diethylether (4:1 parts by volume) and distillation under vacuum there was obtained pure 3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2,6-octadiene, b.p. 114°-117°C/0.002 mmHg; nD20 = 1.5352.

reactant | 1-bromo-3,6,7-trimethyl-2,6-octadiene | 26 g | BrCC=C(CCC(=C(C)C)C)C | C11H19Br
reactant | 3,4-methylenedioxy-phenol | 13 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,6,7-trimethyl-1-[3,4-(methylenedioxy)-phenoxy]-2,6-octadiene | CC(=CCOC1=CC2=C(C=C1)OCO2)CCC(=C(C)C)C | C18H24O3
